US09108957B2
To a solution of 2-(4-bromophenyl)propane-1,3-diol (9.01 g, 39.0 mmol) in vinyl acetate (100 ml) was added Lipase AK Amano (purchased from WAKO, 12.0 g) at room temperature. The mixture was stirred at room temperature for 11 hours and filtered through a pad of Celite to remove solid materials. After concentration, to the residue dissolved into ethanol (35 ml) and diisopropyl ether (200 ml) was added Lipase from porcine pancreas (type II, purchased from SIGMA, 22.2 g). The mixture was stirred at room temperature for 107 hours and filtered through a pad of Celite. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (eluant: hexane/ethyl acetate=2/1) to afford (−)-2-(4-bromophenyl)-3-hydroxypropyl acetate as colorless oil (6.88 g, 65%). [α]D=−11.2 (C=0.5, CHCl3).

reactant | 2-(4-bromophenyl)propane-1,3-diol | 39.0 mmol, 9.01 g | BrC1=CC=C(C=C1)C(CO)CO | C9H11BrO2
reactant | vinyl acetate | 100 ml | C(C)(=O)OC=C | C4H6O2
product | (−)-2-(4-bromophenyl)-3-hydroxypropyl acetate | 6.88 g, 65% | C(C)(=O)OCC(CO)C1=CC=C(C=C1)Br | C11H13BrO3
